US08859544B2
2-Amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoic acid
4.92 ml (4.92 mmol) of a 1N aqueous solution of sodium hydroxide are added, at ambient temperature, to 1.91 g (4.69 mmol) of methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate in 30 ml of methanol. The reaction medium is refluxed for 10 hours and then hydrolysed with a 1N aqueous solution of hydrochloric acid. The aqueous phase is extracted with ethyl acetate. The organic phase obtained is washed with water, dried over sodium sulphate, filtered, and concentrated under reduced pressure. The solid obtained is rinsed with diisopropyl ether and dichloromethane, and dried under reduced pressure overnight at 50° C. 1.55 g of a yellow solid are obtained.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate | 4.69 mmol, 1.91 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)Br)C | C18H15BrN2O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2-Amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoic acid | 1.55 g | NC1=C(C(=O)O)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)Br)C | C17H13BrN2O3
